US04772600
2-(3-Chlorophenyl)-N-(1-ethyl-3-piperidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:1]
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.76 g, 0.020 mole), 1,1'-carbonyldiimidazole (3.24 g, 0.020 mole), and anhydrous tetrahydrofuran (250 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 21/2 hrs. The nitrogen flow was stopped and a solution of 3-amino-N-ethylpiperidine (2.56 g, 0.020 mole) in dry tetrahydrofuran (50 ml) was added. The solution was stoppered and stirred at room temperature for 2 hrs. The reaction was concentrated in vacuo and partitioned between ethyl acetate (150 ml) and potassium bicarbonate solution (50 ml). The layers were separated and the organic portion was washed with potassium bicarbonate solution (2×50 ml), water (50 ml), brine (25 ml), dried over sodium sulfate, and concentrated in vacuo. The solid residue (3.4 g) was converted to the hydrochloride salt and twice recrystallized from acetone-tetrahydrofuran-ethanol to give 2.7 g (31%) of a white solid, mp. 275°-276° C. with decomposition.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.020 mole, 5.76 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.020 mole, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-N-ethylpiperidine | 0.020 mole, 2.56 g | NC1CN(CCC1)CC | C7H16N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-N-(1-ethyl-3-piperidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | 2.7 g, 31% | Cl.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CN(CCC1)CC | InChI=1S/C21H24ClN5O.ClH/c1-2-26-11-5-8-17(13-26)24-19(28)14-27-20(15-6-3-7-16(22)12-15)25-18-9-4-10-23-21(18)27;/h3-4,6-7,9-10,12,17H,2,5,8,11,13-14H2,1H3,(H,24,28);1H
